US07495013B2
(αS) Methyl 4-[[4-[(4-fluorophenyl)methyl]-1-piperidinyl]methyl]-α-(phenylmethyl)-1-piperidineacetate
To a stirred, ice-cooled solution of methyl-(R)-3-phenyl lactate (0.191 g) and powdered 4 Å molecular sieves (0.27 g) in dichloromethane (2 mL) was added trifluoromethanesulfonic anhydride (0.195 mL). After 10 rain, 2,6-lutidine (0.27 mL) was added dropwise resulting in a deep red colour. The reaction mixture was stirred for 40 min at 0° C. A mixture of 4-[[4-[(4-fluorophenyl)methyl]-1-piperidinyl]methylpiperidine (0.28 g) and 4 Å molecular sieves (0.1 g) in dichloromethane (1.5 mL) was added. After 2 min, triethylamine (0.323 mL) was added and the reaction was allowed to warm to room temperature overnight. The reaction mixture was diluted with ethyl acetate and filtered. The filtrate was concentrated in vacuo and purified by flash column chromatography, eluting with ethyl acetate to yield a yellow solid (0.53 g).

reactant | trifluoromethanesulfonic anhydride | 0.195 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 2,6-lutidine | 0.27 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | [4-[(4-fluorophenyl)methyl]-1-piperidinyl]methylpiperidine | 0.28 g | FC1=CC=C(C=C1)CC1CCN(CC1)CN1CCCCC1 | C18H27FN2
reactant | triethylamine | 0.323 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | (αS) Methyl 4-[[4-[(4-fluorophenyl)methyl]-1-piperidinyl]methyl]-α-(phenylmethyl)-1-piperidineacetate | 0.53 g | FC1=CC=C(C=C1)CC1CCN(CC1)CC1CCN(CC1)[C@H](C(=O)OC)CC1=CC=CC=C1 | C28H37FN2O2
